US05389285
A mixture of the N,N'-dimethyl-1,8-naphthalene diamine (0.50 g, 2.7 mmol, 186), tridecanal (0.56 g, 2.85 mmol. 197), p-toluenesulfonic acid (5 mg), and tetrahydrofuran (5 ml) was prepared and stirred at room temperature for 15 minutes. The mixture was basified with 25% sodium hydroxide (1.0 ml), diluted with water (20 ml) and extracted with ether (100 ml). The extract was dried over potassium carbonate, concentrated to give 2,3-dihydro-1,3-dimethyl-2-dodecyl perimidine as a solid: mp 30-32° C.; NMR (CDCl3) 7.13(m, 4H), 6.32(d, 2H), 4.27(t, 1H), 3.02(s, 6H), 1.7-1.1(m, 22H), 0.85(t, 3H); IR (neat) 1595 cm-1.

reactant | N,N'-dimethyl-1,8-naphthalene diamine | 2.7 mmol, 0.50 g | CNC1=CC=CC2=CC=CC(=C12)NC | C12H14N2
reactant | tridecanal | 2.85 mmol, 0.56 g | C(CCCCCCCCCCCC)=O | C13H26O
reactant | p-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | 1.0 ml | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,3-dihydro-1,3-dimethyl-2-dodecyl perimidine | CN1C(N(C2=CC=CC3=CC=CC1=C23)C)CCCCCCCCCCCC | C25H38N2
